US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(1-methyl-piperidin-4-yl)-nicotinamide
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) in DMF (2 mL) were added 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (114 mg, 0.35 mmol), N,N-diisopropyl ethyl amine (275 μL, 1.6 mmol) and 1-methylpiperidin-4-amine (41 mg, 0.35 mmol). The resulting reaction mixture was stirred overnight at room temperature. Concentration and purification by preparative HPLC on reversed phase eluting with acetonitrile/water [0.1% aq NH3 (25%)]. Then the residue was partitioned with ethyl acetate and water, the organic extract was washed with aqueous sodium hydrogen carbonate (saturated) dried over sodium sulfate and concentrated to afford the title compound (94 mg, 72%) which was obtained as a white solid. MS: m/e=407.5 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.35 mmol, 114 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropyl ethyl amine | 1.6 mmol, 275 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-methylpiperidin-4-amine | 0.35 mmol, 41 mg | CN1CCC(CC1)N | C6H14N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(1-methyl-piperidin-4-yl)-nicotinamide | 94 mg, 72% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2CCN(CC2)C)C=C1 | C23H26N4O3
